US04500467
N-[(S)-2,3-Bis-(benzoylthio)-propionyl]-proline
N-[(R)-2,3-Bis-(benzoylthio)-propionyl]-alanylproline, melting point 195°-196° C. (ethyl acetate), Rf=0.40 in system I, [α]D20 =-125° (c=1 in chloroform).

reactant | N-[(R)-2,3-Bis-(benzoylthio)-propionyl]-alanylproline | C(C1=CC=CC=C1)(=O)S[C@H](C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)=O | C25H26N2O6S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[(S)-2,3-Bis-(benzoylthio)-propionyl]-proline | C(C1=CC=CC=C1)(=O)S[C@@H](C(=O)N1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)=O | C22H21NO5S2
